US09062070B2
Step I: lithium 3-(1H-tetrazol-1-yl)-6,7-dihydro-5H-cyclopenta[b]pyridine-7-carboxylate
To a mixture of ethyl 3-(1H-tetrazol-1-yl)-6,7-dihydro-5H-cyclopenta[b]pyridine-7-carboxylate (1.5 g, 5.8 mmol) in 50 mL of THF/MeOH/H2O (2:2:1) was added LiOH.H2O (242.8 mg, 5.8 mmol) portionwise. The resulting mixture was stirred for 30 minutes then diluted with 200 mL of water and washed with ether (3×30 mL). The water layer was freeze-dried to afford the title compound: 1H-NMR (400 MHz, D2O) δ ppm 8.68 (s, 1H), 8.07 (s, 1H), 3.97 (t, J=7.6 Hz, 1H), 3.00-3.14 (m, 2H), 2.53-2.59 (m, 1H), 2.17-2.32 (m, 1H).

reactant | ethyl 3-(1H-tetrazol-1-yl)-6,7-dihydro-5H-cyclopenta[b]pyridine-7-carboxylate | 5.8 mmol, 1.5 g | N1(N=NN=C1)C=1C=C2C(=NC1)C(CC2)C(=O)OCC | C12H13N5O2
reactant | LiOH.H2O | 5.8 mmol, 242.8 mg | O[Li].O
solvent | THF MeOH H2O | 50 mL | C1CCOC1.CO.O
solvent | water | 200 mL | O | H2O
product | lithium 3-(1H-tetrazol-1-yl)-6,7-dihydro-5H-cyclopenta[b]pyridine-7-carboxylate | N1(N=NN=C1)C=1C=C2C(=NC1)C(CC2)C(=O)[O-].[Li+] | InChI=1S/C10H9N5O2.Li/c16-10(17)8-2-1-6-3-7(4-11-9(6)8)15-5-12-13-14-15;/h3-5,8H,1-2H2,(H,16,17);/q;+1/p-1
